US05668137
A solution of bromine (0.11 ml) in chloroform (20 ml) was added dropwise over 20 minutes to a solution of 2-amino-5-methylpyrazine (0.218 g) in chloroform (30 ml) which was protected from light. The reaction mixture was stirred for 90 minutes after addition was complete and was then washed with water (50 ml). The organic phase was dried (MgSO4) and volatile material was removed by evaporation to give a yellow oil. The oil was purified by elution with dichloromethane through a silica gel Mega Bond Elut column to give 2-amino-3-bromo-5-methylpyrazine (0.286 g) as white solid, m.p. 51°-52° C.; mass spectrum (positive chemical ionisation (+ve CI)): 188 (M+H)+.

reactant | bromine | 0.11 ml | BrBr | Br2
reactant | 2-amino-5-methylpyrazine | 0.218 g | NC1=NC=C(N=C1)C | C5H7N3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-3-bromo-5-methylpyrazine | 0.286 g | NC1=NC=C(N=C1Br)C | C5H6BrN3
